US05716971
To a solution of 5-bromo-2-methoxymethoxybenzaldehyde (5.00 g) in methanol (50 ml) was added, at 0° C., sodium borohydride (0.46 g). The mixture was stirred for 30 minutes at the same temperature, which was then concentrated. To the concentrate was added ethyl acetate, and the mixture was washed with an aqueous solution of potassium hydrogensulfate and a saturated aqueous saline solution, successively. The organic layer was dried (anhydrous magnesium sulfate), which was then concentrated to leave 5-bromo-2-methoxymethoxybenzyl alcohol (5.04 g) as a pale yellow oily product.

reactant | 5-bromo-2-methoxymethoxybenzaldehyde | 5.00 g | BrC=1C=CC(=C(C=O)C1)OCOC | C9H9BrO3
reactant | sodium borohydride | 0.46 g | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 5-bromo-2-methoxymethoxybenzyl alcohol | 5.04 g | BrC=1C=CC(=C(CO)C1)OCOC | C9H11BrO3
